US05747498
(3-Ethynylphenyl)-(7-methoxyquinazolin-4-yl)-amine Hydrochloride
4-Chloro-7-methoxyquinazoline (274 mg, 3.72 mmol) and 3-ethynylaniline (436 mg, 3.72 mmol) were refluxed in 15 mL of tert-butyl alcohol for 3 hours, cooled and filtered to afford solid title product which was washed with 10 mL of isopropyl alcohol and dried in vacuo at 70° C., 977 mg (84%); mp 229°-231° C.

reactant | 4-Chloro-7-methoxyquinazoline | 3.72 mmol, 274 mg | ClC1=NC=NC2=CC(=CC=C12)OC | C9H7ClN2O
reactant | 3-ethynylaniline | 3.72 mmol, 436 mg | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | tert-butyl alcohol | 15 mL | C(C)(C)(C)O | C4H10O
product | (3-Ethynylphenyl)-(7-methoxyquinazolin-4-yl)-amine Hydrochloride | Cl.C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=CC=C12)OC | InChI=1S/C17H13N3O.ClH/c1-3-12-5-4-6-13(9-12)20-17-15-8-7-14(21-2)10-16(15)18-11-19-17;/h1,4-11H,2H3,(H,18,19,20);1H
